US04775692
Dimethyl 3-methyl-2-oxo-3-phenylbutylphosphonate (79)
A solution of n-butyl lithium in hexane (1.59N, 44.0 ml, 70.0 mmol) was added to a solution of dimethyl methylphosphonate (8.74 g, 70.0 mmol) in anhydrous THF (130 ml) cooled at -78° C. under argon atmosphere, and the mixture was stirred for 30 minutes. To this reaction mixture was added a solution of methyl 2-methyl-2-phenylpropionate (5.00 g, 28.0 mmol) in anhydrous THF (15 ml) at -78° C. The mixture was stirred for 2 hours, allowed to warm to room temperature and neutralized with acetic acid. The reaction mixture was diluted with water (10 ml), and concentrated. The residue was combined with ethyl acetate (100 ml) and water (30 ml). The separated organic layer was washed with water (30 ml) and brine, dried over anhydrous magnesium sulfate, and concentrated. The residue was distilled (b.p. 135°-141° C./0.05 mmHg) to give an oil of dimethyl 3-methyl-2-oxo-3-phenylbuthylphosphonate (5.73 g, 21.2 mmol, 75.7%). This compound was assigned the structure by the following data:

reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 70.0 mmol, 1.59N, 44.0 ml | CCCCCC | C6H14
reactant | dimethyl methylphosphonate | 70.0 mmol, 8.74 g | CP(OC)(OC)=O | C3H9O3P
reactant | methyl 2-methyl-2-phenylpropionate | 28.0 mmol, 5.00 g | CC(C(=O)OC)(C)C1=CC=CC=C1 | C11H14O2
solvent | THF | 130 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | water | 10 ml | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Dimethyl 3-methyl-2-oxo-3-phenylbutylphosphonate | CC(C(CP(OC)(OC)=O)=O)(C)C1=CC=CC=C1 | C13H19O4P
